US06096771
(a) Methyl 2-fluoro-6-methoxybenzoate
To a solution of 6-fluorosalicylic acid (5.00 g) in dimethylformamide (50 ml) was added anhydrous potassium carbonate (6.00 g) and methyl iodide (6.0 ml) with stirring at room temperature, then followed by vigorous stirring at room temperature for 12 hours. After the completion of the reaction, the reaction mixture was diluted by ether, washed with water and dried over anhydrous sodium sulphate. The solvent was evaporated under reduced pressure, to give the title compound (5.80 g, 98%) as an oil.

reactant | 6-fluorosalicylic acid | 5.00 g | FC=1C=CC=C(C1C(=O)O)O | C7H5FO3
reactant | potassium carbonate | 6.00 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 6.0 ml | CI | CH3I
reactant | ether | CCOCC | C4H10O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | Methyl 2-fluoro-6-methoxybenzoate | 5.80 g, 98% | FC1=C(C(=O)OC)C(=CC=C1)OC | C9H9FO3
